US07514502B2
(D-2) Preparation of Graft Butadiene-styrene-methylmethacrylate Copolymer
This step is to polymerize a shell part around the core part prepared from the third step. Firstly, 197.5 g of ion exchange water, 117.75 g of methyl methacrylate, 9.25 g of ethyl acrylate and 13.8 g of potassium stearate (in 8 wt % solution) were mixed to prepare a pre-emulsion. To the latex prepared from the third step, the pre-emulsion and 69.2 g of potassium persulfate (in 1 wt % solution) were simultaneously and continuously introduced for 1 hour to carry out the reaction of the shell part. While the temperature in the reactor was kept constantly at 70° C., the reaction was aged for 1 hour to complete the polymerization. The final product had a particle size of 190 nm.

reactant | methyl methacrylate | 117.75 g | C(C(=C)C)(=O)OC | C5H8O2
reactant | ethyl acrylate | 9.25 g | C(C=C)(=O)OCC | C5H8O2
reactant | potassium stearate | 13.8 g | C(CCCCCCCCCCCCCCCCC)(=O)[O-].[K+]
reactant | potassium persulfate | 69.2 g | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[K+].[K+]
solvent | water | O | H2O
product | Butadiene styrene-methylmethacrylate Copolymer | C=CC=C.CC(=C)C(=O)OC.C=CC1=CC=CC=C1 | InChI=1S/C8H8.C5H8O2.C4H6/c1-2-8-6-4-3-5-7-8;1-4(2)5(6)7-3;1-3-4-2/h2-7H,1H2;1H2,2-3H3;3-4H,1-2H2
